Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.0337031622
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11],2.04766845389
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-5.157060608319999
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.51696819987
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][O:8][C:9]([H:10])([H:11])[H:12],-4.05985792751
[C:1]#[C:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],5.941841533890001
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.35718176381
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][C:2],7.052382260739999
[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-3.4814992040599995
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.73630671847
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.22857225292
[H:1][O:2]/[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]1[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],1.08331163737
[C:4]([H:5])=[C:6]([O:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([O:7][H:8])[O:9][H:10],-6.4866143986
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C@:3]([H:4])([O:5])[C:10]([H:11])=[C:12]([H:13])[H:14],3.61270982797
[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.91382434847
[C:1][C:2]#[C:3][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:4]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.5281784809
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:11].[O:1]([C:8]([H:9])[H:10])[H:12]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.24836471068
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9].[O:1]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],-6.7420081933
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13].[H:5],1.63571748014
[C:1]=[C:2]([O:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:6]([H:7])=[C:8]([H:9])[H:10].[O:3][O:4][H:5],1.69080169523
[C:1]#[C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.87595917971
[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],3.3653730970599995
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10][H:11],5.03512043487
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.79168422255
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6],1.00859067286
[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])[H:12],4.62939566652
[C:2]#[C:4][C:8]([H:9])([H:10])[H:11].[H:1][C:6]([H:3])=[C:7][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-6.20435895941
[O:1]=[C:2]=[C:3]1[O:4][C:5]1([H:6])[H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],1.28123047286
[H:1][O:2][C@:3]([H:4])([C:5]=[O:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[C:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11],-0.234599305339
